US09382188B2
step 1) tert-butyl 2′-fluoro-5′-methoxy-2-(3-methyl-3-((trimethylsilyl)oxy)but-1-yn-1-yl)biphenyl-4-yl carbonate
Under a nitrogen atmosphere, to a mixture of 4-((tert-butoxycarbonyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate (408 mg), tetrakis(triphenylphosphine)palladium (308 mg), copper iodide (32 mg) and triethylamine (10 mL) was added trimethyl((2-methylbut-3-yn-2-yl)oxy)silane (1.7 mL). The mixture was stirred at 80° C. for 15 hr, and tetrakis(triphenylphosphine)palladium (308 mg) was added. The mixture was stirred at 80° C. for 20 hr, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (232 mg) as a yellow oil.

reactant | 4-((tert-butoxycarbonyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate | 408 mg | FC(S(=O)(=O)OC1=C(C=CC(=C1)OC(=O)OC(C)(C)C)C1=C(C=CC(=C1)OC)F)(F)F | C19H18F4O7S
reactant | trimethyl((2-methylbut-3-yn-2-yl)oxy)silane | 1.7 mL | C[Si](OC(C)(C#C)C)(C)C | C8H16OSi
catalyst | tetrakis(triphenylphosphine)palladium | 308 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 32 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 308 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl 2′-fluoro-5′-methoxy-2-(3-methyl-3-((trimethylsilyl)oxy)but-1-yn-1-yl)biphenyl-4-yl carbonate | 232 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C#CC(C)(O[Si](C)(C)C)C)=O | C26H33FO5Si
